* C:\Users\david\Desktop\École\Université\Undergrad\Work\Labs\ADC4\Draft9.asc
R1 N001 0 4
V1 N002 0 5
D1 N002 N001 1N914
.model D D
.lib C:\Users\david\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.backanno
.end